*trigate  buffer

.include osu018.lib

m2 in_bar in vdd vdd CMOSP W=0.8u L=0.18u M=1
m1 in_bar in gnd gnd CMOSN W=0.4u L=0.18u M=1

m4 net-_m4-pad1_ in_bar vdd vdd  CMOSP W=0.8u L=0.18u M=1
m5 out en_bar net-_m4-pad1_ vdd CMOSP W=0.8u L=0.18u M=1
m6 out en net-_m3-pad1_ gnd CMOSN W=0.4u L=0.18u M=1
m3 net-_m3-pad1_ in_bar gnd gnd CMOSN W=0.4u L=0.18u M=1

m7 en_bar en vdd vdd CMOSP W=0.8u L=0.18u M=1
m8 en_bar en gnd gnd CMOSN W=0.4u L=0.18u M=1

c1 out gnd 50f

v2 vdd gnd  dc 1.8V
v1  in gnd pulse(0 1.8V 0 10ps 10ps 20ns  40ns)
v3  en gnd pulse(0 1.8V 0 10ps 10ps 50ns 100ns)

.tran 10e-09 200e-09 0e-09

* Control Statements 
.control
run

plot v(en)+6 v(in)+3 v(out)
.endc
.end
